US06127354
N-(2-(2-Hydroxyphenyl)ethyl)-N-methylcarbamic acid tert-butyl ester (702 mg, 2.79 mmol) was dissolved in N,N-dimethylformamide (6 ml). Potassium carbonate (1.93 g, 13.97 mmol) and cesium chloride (24 mg, 0.14 mmol) were added. 3-bromo-1-propanol (0.28 ml, 3.07 mmol) was added. The reaction mixture was stirred at 80° C. for 16 h. It was cooled to room temperature and diluted with ethyl acetate (75 ml) and water (75 ml). The phases were separated. The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with a 10% aqueous solution of sodium hydrogen sulfate solution (70 ml) and a saturated aqueous solution of sodium hydrogen carbonate (70 ml). They were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using ethyl acetate/heptane (1:1) as eluent, to give 606 mg of {2-[2-(3-hydroxypropoxy)phenyl]ethyl}-N-methylcarbamic acid tert-butyl ester.

reactant | N-(2-(2-Hydroxyphenyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 2.79 mmol, 702 mg | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)O)=O | C14H21NO3
reactant | Potassium carbonate | 13.97 mmol, 1.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-propanol | 3.07 mmol, 0.28 ml | BrCCCO | C3H7BrO
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 75 ml | O | H2O
catalyst | cesium chloride | 0.14 mmol, 24 mg | [Cl-].[Cs+]
product | {2-[2-(3-hydroxypropoxy)phenyl]ethyl}-N-methylcarbamic acid tert-butyl ester | 606 mg | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)OCCCO)=O | C17H27NO4
